.subckt dynamic_internal_node_capacitive_loads vss Vx Vy VP VQ
C3 Vy vss cap C3
C2 Vx vss cap C2
C0 VP vss cap C0
C1 VQ vss cap C1
.ends dynamic_internal_node_capacitive_loads