.subckt dynamic_node_capacitive_load_network vss VP VQ Vx Vy
C3 Vy vss cap C3
C2 Vx vss cap C2
C0 VP vss cap C0
C1 VQ vss cap C1
.ends dynamic_node_capacitive_load_network