.subckt positive_output_cmos_inverter_buffer vss vdd Vx Vop
M17 Vop Vx vdd vdd pmos w=120n l=60n nf=1 m=1
M2 Vop Vx vss vss nmos w=120n l=60n nf=1 m=1
.ends positive_output_cmos_inverter_buffer